US07414060B2
Step 3: 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester:
Palladium catalysed arylation of 3-Bromo-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester with 3-Aminopyridine according to the general procedure described in example 78 step 3 yielded the title compound as a light yellow solid, MS (ISP): m/e=284.4 (M+H+).

reactant | 3-Bromo-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1Br)C1CC1 | C11H12BrNO2
reactant | 3-Aminopyridine | NC=1C=NC=CC1 | C5H6N2
catalyst | Palladium | [Pd] | Pd
product | 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C1CC1 | C16H17N3O2
